US07977344B2
N2-Butyl-8-(methoxy)-9-[3-(tetrahydro-2H-pyran-3-yl)propyl]-9H-Purine-2,6-diamine
To a solution of N2-butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt (300 mg) in dry N,N-dimethylformamide (5.3 ml) was added potassium carbonate (474 mg). The reaction was stirred at 60° C. for ninety minutes. The reaction was cooled and 3-(tetrahydro-2H-pyran-3-yl)propyl methanesulfonate (209 mg) was added and the reaction heated at 90° C. for three hours. The reaction was cooled, diluted with ethyl acetate and washed with water (2×). The organic layer was separated, dried over magnesium sulphate, filtered and concentrated in vacuo. to afford a yellow oil. The product was purified by C18 reverse phase chromatography (43 g) (ISCO) using water (0.1% formic acid)-acetonitrile (0.05% formic acid) as eluant (30-80%) to afford the title compound as a yellow oily residue (198 mg).

reactant | N2-butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt | 300 mg | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 474 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(tetrahydro-2H-pyran-3-yl)propyl methanesulfonate | 209 mg | CS(=O)(=O)OCCCC1COCCC1 | C9H18O4S
solvent | N,N-dimethylformamide | 5.3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N2-Butyl-8-(methoxy)-9-[3-(tetrahydro-2H-pyran-3-yl)propyl]-9H-Purine-2,6-diamine | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCCC1COCCC1)OC)N | C18H30N6O2
